US07897594B2
Production of 1-(2-(2-(1-benzothiophene-4-yl)ethoxy)ethyl)-3-pyrrolidinol hydrochloride
0.63 g of 1-(2-(2-(1-benzothiophene-4-yl)ethoxy)ethyl)-3-pyrrolidinol was dissolved in 5.0 ml of ethyl acetate. Thereafter, 0.80 ml of an ethyl acetate solution containing 3.25 mol/l dry hydrogen chloride was added to the obtained solution. The mixture was stirred at a room temperature for 1 hour and then at 5° C. for 1 hour. Thereafter, precipitated crystals were collected by filtration. The precipitated crystals were washed with ethyl acetate and then dried, so as to obtain 0.43 g of an achromatic crystal, 1-(2-(2-(1-benzothiophene-4-yl)ethoxy)ethyl)-3-pyrrolidinol hydrochloride.

reactant | 1-(2-(2-(1-benzothiophene-4-yl)ethoxy)ethyl)-3-pyrrolidinol | 0.63 g | S1C=CC2=C1C=CC=C2CCOCCN2CC(CC2)O | C16H21NO2S
reactant | hydrogen chloride | 3.25 mol/l | Cl | ClH
solvent | ethyl acetate | 5.0 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.80 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-(2-(1-benzothiophene-4-yl)ethoxy)ethyl)-3-pyrrolidinol hydrochloride | 0.43 g | Cl.S1C=CC2=C1C=CC=C2CCOCCN2CC(CC2)O | InChI=1S/C16H21NO2S.ClH/c18-14-4-7-17(12-14)8-10-19-9-5-13-2-1-3-16-15(13)6-11-20-16;/h1-3,6,11,14,18H,4-5,7-10,12H2;1H
